US08003649B2
A mixture of piperidine and 3-amino-6-chloro-1,2,4-triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 2 to give 6-piperidin-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-amine.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 3-amino-6-chloro-1,2,4-triazolo[4,3-b]pyridazine | NC1=NN=C2N1N=C(C=C2)Cl | C5H4ClN5
product | 6-piperidin-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-amine | N1(CCCCC1)C=1C=CC=2N(N1)C(=NN2)N | C10H14N6
